US03992400
In the manner given in Preparation 11, 2-amino-2'-chloro-5-nitrobenzophenone hydrazone is refluxed with potassiumhydroxide in diethylene glycol to give 2-(o-chlorobenzyl)-4-nitroaniline.

reactant | 2-amino-2'-chloro-5-nitrobenzophenone hydrazone | NC1=C(C(C2=C(C=CC=C2)Cl)=NN)C=C(C=C1)[N+](=O)[O-] | C13H11ClN4O2
reactant | potassiumhydroxide | [OH-].[K+]
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 2-(o-chlorobenzyl)-4-nitroaniline | ClC1=C(CC2=C(N)C=CC(=C2)[N+](=O)[O-])C=CC=C1 | C13H11ClN2O2
